US08198448B2
5-((5-fluoropyridin-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione. A 150 mL sealed tube was charged with 2,2-dimethyl-1,3-dioxane-4,6-dione (6.0 g, 41.6 mmol) and trimethyl orthoformate (41.6 mL, 41.6 mmol). This was heated to 100° C., and stirred at this temperature for 2 hours. Reaction then cooled to 30° C. and 5-fluoropyridin-3-amine (4.7 g, 41.6 mmol) added portion-wise. Reaction vessel resealed and mixture stirred at 100° C. for 3 hours. LC/MS shows completion. Reaction mixture was cooled to room temperature, diluted with hexane, filtered, and air dried to yield 5-((5-fluoropyridin-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (9.1 g, 82% yield) as a bright yellow solid. MS [M+H]=267.2. Calc'd for Cl2H11FN2O4=266.2. 2) 7-fluoro-1,5-naphthyridin-4(1H)-one. A 500 mL round bottom flask equipped with a reflux condenser was charged with 5-((5-fluoropyridin-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (8.0 g, 30.0 mmol) and diphenyl ether (83.5 mL). This was heated to 250° C. in heating mantle and allowed to stay at this temperature for five minutes. Cooled to room temperature, diluted with hot hexanes, and filtered to afford 7-fluoro-1,5-naphthyridin-4(1H)-one (2.2 g, 45% yield) as a crude brown solid. The title compound was used without further purification. MS [M+H]=165.2, Calc'd for C8H5FN2O=164.14. 3) 8-chloro-3-fluoro-1,5-naphthyridine. A pressure resistant vial was charged with 7-fluoro-1,5-naphthyridin-4(1H)-one (600 mg, 3.66 mmol) and POCl3 (6.8 mL, 73.1 mmol). Vessel sealed and stirred at 110° C. for 16 hrs. Reaction mixture was cooled to room temperature and poured onto ice while stirring vigorously. While keeping reaction mixture at 0° C., it was basified to pH˜8 with 6N NaOH. Product extracted with dichloromethane. Organic layer collected, dried over sodium sulfate and concentrated to afford desired material. This was passed through a silica plug in 1-5% (90:10:1 DCM/MeOH/NH4OH)/DCM to afford 8-chloro-3-fluoro-1,5-naphthyridine (430 mg, 64% yield) as a tan solid. MS [M+H]=182.9. Calc'd for C8H4ClFN2=182.58

reactant | 7-fluoro-1,5-naphthyridin-4(1H)-one | 3.66 mmol, 600 mg | FC1=CN=C2C(C=CNC2=C1)=O | C8H5FN2O
reactant | POCl3 | 73.1 mmol, 6.8 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 6N | [OH-].[Na+]
reactant | DCM MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 8-chloro-3-fluoro-1,5-naphthyridine | 430 mg, 64% yield | ClC=1C=CN=C2C=C(C=NC12)F | C8H4ClFN2
